US07615562B2
Step D: (E)-4-{5-[2-(2,2,6,6-Tetramethyl-piperidin-4-ylamino)-pyrimidin-4-yl]-thiophen-2-yl}-but-3-en-2-ol
(E)-4-[5-(2-Methanesulfonyl-pyrimidin-4-yl)-thiophen-2-yl]-but-3-en-2-ol (100 mg, 0.32 mmol) was mixed with 2,2,6,6-tetramethyl-piperidin-4-ylamine (0.2 ml, 1.15 mmol) and DIEA (0.2 ml, 1.17 mmol) and heated to 120° C. in a closed flask for 2 hours. The residue was then diluted with MeOH and purified by preparative HPLC to give the title compound. Yield: 25 mg (20%).

reactant | (E)-4-[5-(2-Methanesulfonyl-pyrimidin-4-yl)-thiophen-2-yl]-but-3-en-2-ol | 0.32 mmol, 100 mg | CS(=O)(=O)C1=NC=CC(=N1)C1=CC=C(S1)/C=C/C(C)O | C13H14N2O3S2
reactant | 2,2,6,6-tetramethyl-piperidin-4-ylamine | 1.15 mmol, 0.2 ml | CC1(NC(CC(C1)N)(C)C)C | C9H20N2
reactant | DIEA | 1.17 mmol, 0.2 ml | CCN(C(C)C)C(C)C | C8H19N
solvent | MeOH | CO | CH4O
product | (E)-4-{5-[2-(2,2,6,6-Tetramethyl-piperidin-4-ylamino)-pyrimidin-4-yl]-thiophen-2-yl}-but-3-en-2-ol | CC1(NC(CC(C1)NC1=NC=CC(=N1)C1=CC=C(S1)/C=C/C(C)O)(C)C)C | C21H30N4OS
